US04450166
45.36 ml of 1.1 M of triisobutyl aluminum in toluene were added with stirring over 10 minutes at 7° to 10° C. to a mixture of 10.2 g of 2-amino-thiazoline and 500 ml of methylene chloride and the mixture was stirred at 7° to 10° C. for one hour. 4.88 of ethyl 6-ethyl-4-hydroxy-3-quinolin-carboxamide were added to the mixture which was then refluxed for 16 hours. The mixture was evaporated to dryness under reduced pressure and the residue was taken up to 100 ml of aqueous N hydrochloric acid solution. The solution was heated at 70° C. for 2 hours and was treated with activated carbon and filtered. The filtrate was allowed to crystallize and was then vacuum filtered. The recovered product was washed with aqueous N hydrochloric acid solution and was dried under reduced pressure and crystallized from acetic acid to obtain 2.2 g of N-(4,5-dihydro-thiazol-2-yl)-6-ethyl-4-hydroxy-3 -quinoline-carboxamide hydrochloride melting at >260° C.

reactant | triisobutyl aluminum | 1.1 M, 45.36 ml | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 2-amino-thiazoline | 10.2 g | NC=1SCCN1 | C3H6N2S
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl 6-ethyl-4-hydroxy-3-quinolin-carboxamide | C(C)C1=NC2=CC=C(C=C2C(=C1C(=O)N)O)CC | C14H16N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4,5-dihydro-thiazol-2-yl)-6-ethyl-4-hydroxy-3 -quinoline-carboxamide hydrochloride | 2.2 g | Cl.S1C(=NCC1)NC(=O)C=1C=NC2=CC=C(C=C2C1O)CC | InChI=1S/C15H15N3O2S.ClH/c1-2-9-3-4-12-10(7-9)13(19)11(8-17-12)14(20)18-15-16-5-6-21-15;/h3-4,7-8H,2,5-6H2,1H3,(H,17,19)(H,16,18,20);1H
